US07547696B2
a.) 2-Nitro-5-(4-methylpiperazin-1-yl)benzoic acid
The mixture of 10 g of 2-nitro-5-chlorobenzoic acid and 30 mL of N-methylpiperazine is stirred at 120° C. for 6 hours. To the reaction mixture 150 mL of ethyl acetate is added. The precipitated yellow crystalline material is filtered off, dissolved in 15 mL of water. The pH of the mixture is adjusted to 6 with acetic acid. The precipitated material is filtered off, washed with water and dried, to obtain 11.2 g of the title compound. m.p.: 212° C.

reactant | 2-nitro-5-chlorobenzoic acid | 10 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)Cl | C7H4ClNO4
reactant | N-methylpiperazine | 30 mL | CN1CCNCC1 | C5H12N2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-Nitro-5-(4-methylpiperazin-1-yl)benzoic acid | 11.2 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)N1CCN(CC1)C | C12H15N3O4
